US08802664B2
423AA solution of crude (1-{3-[benzothiazol-2-yl-(1-methylpiperidin-4-yloxy)methyl]phenyl}pyrrolidin-3-yl)carbamic acid tert-butyl ester (289 mg) in dichloromethane (3 mL) and trifluoroacetic acid (2.5 mL) is stirred at room temperature for one night. The mixture is concentrated under reduced pressure, diluted with ethyl acetate, washed with aqueous 1N sodium hydroxide, dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography (gradient dichloromethane/methanol/ammonia from 95/5/0.5 to 80/20/0.5). The base is converted into its dioxalate salt in acetone to give 1-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl}pyrrolidin-3-ylamine, dioxalate melting at 145° C.

reactant | (1-{3-[benzothiazol-2-yl-(1-methylpiperidin-4-yloxy)methyl]phenyl}pyrrolidin-3-yl)carbamic acid tert-butyl ester | 289 mg | C(C)(C)(C)OC(NC1CN(CC1)C1=CC(=CC=C1)C(OC1CCN(CC1)C)C=1SC2=C(N1)C=CC=C2)=O | C29H38N4O3S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl}pyrrolidin-3-ylamine | S1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)N2CC(CC2)N)OC2CCN(CC2)C | C24H30N4OS
